2152-01-20 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - CT head wet read: acute on chronic left subdural hemorrhage with
   associated 5mm rightward midline shift.
   - Neurosurgery consulted and recommended: q1h neurochecks (put in for
   q3-4h), hold ASA, keppra 500mg [**Hospital1 **], reassess SDH after GIB resolved.
   - s/p 3 pRBCs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-1-20**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**53**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.1
C (97
   HR: 68 (53 - 87) bpm
   BP: 133/55(75) {93/37(49) - 138/71(116)} mmHg
   RR: 15 (10 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  1,526 mL
                                                                  2,625 mL
   PO:
                                                                    480 mL
           TF:
   IVF:
                                                                    100 mL
                                                                    750 mL
   Blood products:
                                                                    246 mL
                                                                    435 mL
   Total out:
                                                                    600 mL
                                                                      0 mL
   Urine:
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    926 mL
                                                                  2,625 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Conjunctiva pale, MMM, oropharynx clear
   Neck: Supple, JVP not elevated, no LAD
   Lungs: Rales at bases bilaterally, some coarse breath sounds on right
   CV: RRR, III/VI systolic murmur best heard over the pulmonic area and
   radiating to the carotids
   Abdomen:  Soft, non-tender, non-distended
   Rectal: No external lesions, no bleeding
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   CN II-XII intact. Motor in upper and lower extremities symmetric.
   Labs / Radiology
   228 K/uL
   9.1 g/dL
   131 mg/dL
   0.8 mg/dL
   28 mEq/L
   4.1 mEq/L
   12 mg/dL
   111 mEq/L
   145 mEq/L
   27.4 %
   8.2 K/uL
        [image002.jpg]
                             [**2152-1-19**]  07:59 PM
                             [**2152-1-20**]  04:37 AM
   WBC
   8.2
   Hct
   24.2
   27.4
   Plt
   228
   Cr
   0.8
   TropT
   <0.01
   Glucose
   131
   Other labs: PT / PTT / INR:13.4/27.7/1.1, CK / CKMB /
   Troponin-T:133/4/<0.01, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   [**1-19**] CT Head
 Wet read: Acute on chronic left subdural hemorrhage with
   associated 5mm rightward midline shift.
   [**1-19**] CXR
 Wet read: Low lung volumes; pulm vascular congestion. 8mm
   ovid density projecting over [**Last Name (LF) 1785**], [**First Name3 (LF) **] = vascular structure. recommend
   PA and lat views for further/better eval to exclude underlying
   pulmonary nodule. borderline heart size. mildly blunted right cpa,
   ?small eff.
   Assessment and Plan
   86 year old male with a history of CAD s/p CABG who presents with BRBPR
   in the setting of increasing fatigue.
   .
   # BRBPR: Differential includes diverticulosis, hemmorhoidal bleed,
   colonic mass, colitis, ulcer, less likely IBD/UC.  Patient has never
   had a colonoscopy.  Currently hemodynamically stable.
   - Appreciate GI consult; continue to follow
   - Maintain 2 PIV
   - Serial hct q8, goal > 25
   - Type and cross
   - GoLytely prep for possible colonoscope today
   - NPO other than prep
   - IVF prn
   - Hold ASA in setting of GI bleed
   .
   # Anemia: likely mostly GI related and Fe def.  Will check Fe labs.
   Consider checking b-12 and folate as outpatient
   - GI work up per above
   - Serial hct q8, goal > 25
   .
   # ECG changes: Patient without any chest pain and CE enzymes negative
   times one.  The mild elevations in aVR could be consistent with a very
   proximal LAD lesion.  However given his CABG his anatomy is likely
   altered giving the aVR change questionable significance.  In the
   setting of some other TWF, this may just represent mild demand
   ischemia.  Given other issues would not be a candidate for
   anticoagulation at this time.
   - Hold ASA in setting of GI bleed
   - Follow cardiac enzymes
   - Follow AM EKG
   .
   # SDH: Patient with acute on chronic subdural bleed.  Likely related to
   fall and head trauma a few weeks ago.
   - Appreciate neurosurg recs; continue to follow
   - Keppra 500mg PO/IV bid for prophylaxis
   - Cont serial neuro exams q3-4 hours; follow up with neurosurgery
   regarding readiness for floor
   .
   # HTN: Holding antihypertensives in the setting of GI bleed
   .
   # HLD: Holding statin acutely, plan to restart on medical floor
   .
   # Hypothyroid: Continue levothyroxine
   .
   # BPH: Holding prostate meds in setting of GI bleed.  If difficulty
   passing urine will place foley.
   .
   # FEN: IVF, replete electrolytes, NPO for procedure
   # Prophylaxis: Pneumoboots
   # Access: Peripherals
   # Communication: Patient, patient
s family
   # Code:  Full (although patient wants to talk with family about
   options)
   # Disposition: ICU pending clinical improvement; likely can go to floor
   today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2152-1-19**] 07:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2152-01-20 09:55:00 Physician Attending Progress Note
Chief Complaint: Gi Bleed, Blood Loss Anemia, Subdural hematoma
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No complaints this AM
   24 Hour Events:
   Seen by neurosurg --> recommended close monitoring for now
   History obtained from [**Hospital 31**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   per ICU residentnote
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Gastrointestinal: No(t) Abdominal pain
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2152-1-20**] 09:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**53**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.3
C (97.3
   HR: 69 (53 - 87) bpm
   BP: 111/59(71) {93/37(49) - 138/71(116)} mmHg
   RR: 19 (10 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  1,526 mL
                                                                  2,915 mL
   PO:
                                                                    480 mL
           TF:
   IVF:
                                                                    100 mL
                                                                  1,040 mL
   Blood products:
                                                                    246 mL
                                                                    435 mL
   Total out:
                                                                    600 mL
                                                                      0 mL
   Urine:
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    926 mL
                                                                  2,915 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Tender: mild in LLQ
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, pleasant,
   conversive, no focal defecit
   Labs / Radiology
   9.1 g/dL
   228 K/uL
   131 mg/dL
   0.8 mg/dL
   28 mEq/L
   4.1 mEq/L
   12 mg/dL
   111 mEq/L
   145 mEq/L
   27.4 %
   8.2 K/uL
        [image002.jpg]
                             [**2152-1-19**]  07:59 PM
                             [**2152-1-20**]  04:37 AM
   WBC
   8.2
   Hct
   24.2
   27.4
   Plt
   228
   Cr
   0.8
   TropT
   <0.01
   Glucose
   131
   Other labs: PT / PTT / INR:13.4/27.7/1.1, CK / CKMB /
   Troponin-T:133/4/<0.01, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Imaging: CT head (prelim): acute on chronic large L subdural hematoma
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   86 yo man with GI Bleed, likely lower source.  Also with new finding of
   subacute subdural hematoma that does not appear to be affecting pt's
   sensorium
   1. GI Bleed: Continue prep in anticipation of colonoscopy - timing
   depending on prep and per GI.  Hct now 27 after transusion
   2. SDH: Appreciate neurosurg input.  Repeat head Ct. Cont Keppra. Cont
   q1 hr neuro checks.
   Remainder of issues per ICU resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2152-1-19**] 07:47 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 34 minutes
   Patient is critically ill

2152-01-21 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Scope planned for [**1-21**]
   - CT head read as unchanged
   - Spoke to neuroosurgery about calling out to floor and they were
   agreeable.
   - Realized fluid output not documented as incontinent and has been NPO,
   so gave 500 cc NS.
   - EKG unchanged, enzymes flat, ROMI complete.
   - HCt stable 24.2 > 27.4 > 26.7 4pm > 1U pRBC > 27.7 > 31.2
   - Had episodes of confusion during the evening; thought was in
   prison/locked up, spoke with family on phone and accusatory of wife and
   said want to divorce her, etc. Felt it was too late to transfer with
   less supervision, and patient was getting out of bed frequently along
   with confusion. No focality, neuro exam unchanged, hypotension no
   hypertension; although had bradycardia. No scan performed, thought
   likely delirium; alert but inattentive and oriented to self only.
   - Continued agitation throughout evening; received 0.125mg Ativan with
   slight relief; Haldol ordered but did no receive.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2152-1-21**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-1-21**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**53**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.9
C (96.7
   HR: 72 (41 - 81) bpm
   BP: 131/62(80) {91/31(46) - 150/70(90)} mmHg
   RR: 19 (12 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,470 mL
                                                                    574 mL
   PO:
             TF:
   IVF:
                                                                  1,220 mL
                                                                    574 mL
   Blood products:
                                                                    810 mL
   Total out:
                                                                    350 mL
                                                                    175 mL
   Urine:
                                                                    350 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,120 mL
                                                                    399 mL
   Respiratory support
   SpO2: 98%
   ABG: ////
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Conjunctiva pale, MMM, oropharynx clear
   Neck: Supple, JVP not elevated, no LAD
   Lungs: Rales at bases bilaterally, some coarse breath sounds on right
   CV: RRR, III/VI systolic murmur best heard over the pulmonic area and
   radiating to the carotids
   Abdomen:  Soft, non-tender, non-distended
   Rectal: No external lesions, no bleeding
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   CN II-XII intact. Motor in upper and lower extremities symmetric
   Labs / Radiology
   212 K/uL
   10.5 g/dL
   131 mg/dL
   0.8 mg/dL
   28 mEq/L
   4.1 mEq/L
   12 mg/dL
   111 mEq/L
   145 mEq/L
   31.2 %
   8.8 K/uL
        [image002.jpg]
                             [**2152-1-19**]  07:59 PM
                             [**2152-1-20**]  04:37 AM
                             [**2152-1-20**]  02:14 PM
                             [**2152-1-20**]  10:29 PM
                             [**2152-1-21**]  06:08 AM
   WBC
   8.2
   8.8
   Hct
   24.2
   27.4
   26.7
   27.7
   31.2
   Plt
   228
   212
   Cr
   0.8
   TropT
   <0.01
   Glucose
   131
   Other labs: PT / PTT / INR:12.8/26.3/1.1, CK / CKMB /
   Troponin-T:133/4/<0.01, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   [**1-20**] CT HEAD: Stable size of left hemispheric extra-axial collection.
   Assessment and Plan
   86 year old male with a history of CAD s/p CABG who presents with BRBPR
   in the setting of increasing fatigue.
   .
   # BRBPR: Differential includes diverticulosis, hemmorhoidal bleed,
   colonic mass, colitis, ulcer, less likely IBD/UC.  Patient has never
   had a colonoscopy.  Currently overall hemodynamically stable and it is
   likely that we may perform colonoscopy while patient on floor.
   - Appreciate GI consult; continue to follow
   - Plan to defer colonoscopy at this time given bradycardia/need for
   sedation for procedure
   - Maintain 2 PIV, large-bore
   - Serial hct q8, goal > 25
   - Continue active type and cross
   - NPO other than colonoscopy prep
   - Maintenance IVF; bolus prn
   - Hold ASA in setting of GI bleed
   .
   # Anemia: likely mostly GI related and Fe def.  Will check Fe labs.
   Consider checking b-12 and folate as outpatient
   - Appreciate GI consult; continue to follow
   - Serial hct q12, goal > 25
   .
   # EKG changes: Patient without any chest pain and CE enzymes negative.
   The mild elevations in aVR could be consistent with a very proximal LAD
   lesion.  However given CABG, his anatomy likely altered and
   questionable significance of the aVR change. In the setting of some
   other TWF, this may just represent mild demand ischemia. Patient had
   episode of bradycardia overnight and appears to be sinus bradycardia
   with repeat EKG Given other issues would not be a candidate for
   anticoagulation at this time.
   - Replete electrolytes
   - Repeat EKG and follow
   - Hold ASA in setting of GI bleed
   - Follow neuro exam
   .
   # SDH: Patient with acute on chronic subdural bleed.  Likely related to
   fall and head trauma a few weeks ago. Neurosurgery has agreed patient
   is a candidate for floor.
   - Appreciate neurosurg recs; follow CT head for SDH/bradycardia
   - Keppra 500mg PO/IV bid for prophylaxis
   - Follow neuro exam
   .
   # HTN: Holding antihypertensives in the setting of GI bleed
   .
   # HLD: Holding statin acutely, plan to restart on medical floor
   .
   # Hypothyroid: Continue levothyroxine
   .
   # BPH: Holding prostate meds in setting of GI bleed.  If difficulty
   passing urine will place foley.
   .
   # FEN: Maintenance IVF; bolus prn, replete electrolytes, NPO for
   procedure
   # Prophylaxis: Pneumoboots
   # Access: PIVx1; will attempt to replace a second IV today
   # Communication: Patient, patient
s family
   # Code:  Full (although patient wants to talk with family about
   options)
   # Disposition: ICU pending clinical improvement; likely can go to floor
   today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2152-1-19**] 07:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2152-01-21 10:37:00 Physician Attending Progress Note
Chief Complaint: GI Bleed/Blood Loss Anemia, SDH
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   More confused overnight and this AM
   Bradycardic this AM in 40s
   24 Hour Events:
   History obtained from [**Hospital 31**] Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2152-1-21**] 05:30 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Nutritional Support: NPO
   Gastrointestinal: No(t) Abdominal pain
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2152-1-21**] 10:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**53**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.9
C (96.7
   HR: 72 (41 - 81) bpm
   BP: 131/62(80) {91/31(46) - 150/70(90)} mmHg
   RR: 19 (12 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,470 mL
                                                                    605 mL
   PO:
             TF:
   IVF:
                                                                  1,220 mL
                                                                    605 mL
   Blood products:
                                                                    810 mL
   Total out:
                                                                    350 mL
                                                                    175 mL
   Urine:
                                                                    350 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,120 mL
                                                                    430 mL
   Respiratory support
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, Somnolent,
   confused
   Labs / Radiology
   10.5 g/dL
   212 K/uL
   79 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.7 mEq/L
   10 mg/dL
   110 mEq/L
   145 mEq/L
   31.2 %
   8.8 K/uL
        [image002.jpg]
                             [**2152-1-19**]  07:59 PM
                             [**2152-1-20**]  04:37 AM
                             [**2152-1-20**]  02:14 PM
                             [**2152-1-20**]  10:29 PM
                             [**2152-1-21**]  06:08 AM
   WBC
   8.2
   8.8
   Hct
   24.2
   27.4
   26.7
   27.7
   31.2
   Plt
   228
   212
   Cr
   0.8
   0.9
   TropT
   <0.01
   Glucose
   131
   79
   Other labs: PT / PTT / INR:12.8/26.3/1.1, CK / CKMB /
   Troponin-T:133/4/<0.01, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   86 yo man with GI Bleed, likely lower source.  Also with new finding of
   subacute subdural hematoma that does not appear to be affecting pt's
   sensorium
   1. GI Bleed: Will hold off on colonoscopy for this AM given
   bradycardia.
   2. SDH: Appreciate neurosurg input.  More confused and bradycardic -
   repeat non-contrast head CT today
   3. Bradycardia: BP stable, will cont monitor on tele
   Remainder of issues per ICU resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2152-1-21**] 01:50 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2152-01-22 07:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2152-1-22**] 05:22 AM
   - Neuro Surgery, Repeat CT head, Patient okay for floor. Neuro thinks
   CT Head looks stable.
   - Bradycardia, Keppra not associated with Bradycardia. Brady throughout
   the day. Low of 29 while sleeping. Asymptomatic. No change in pressure.
   - GI Recs: No scope given bradycardia. Nothing new.
   - HCT: stable 29.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-1-22**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**53**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 39 (32 - 58) bpm
   BP: 121/55(68) {104/37(58) - 152/66(86)} mmHg
   RR: 18 (15 - 24) insp/min
   SpO2: 93%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 67 Inch
             Total In:
                                                                  2,200 mL
                                                                     75 mL
   PO:
                                                                    960 mL
             TF:
   IVF:
                                                                  1,240 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                    675 mL
                                                                    450 mL
   Urine:
                                                                    375 mL
                                                                    450 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                  1,525 mL
                                                                   -375 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///27/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Conjunctiva pale, MMM, oropharynx clear
   Neck: Supple, JVP not elevated, no LAD
   Lungs: Rales at bases bilaterally, some coarse breath sounds on right
   CV: RRR, III/VI systolic murmur best heard over the pulmonic area and
   radiating to the carotids
   Abdomen:  Soft, non-tender, non-distended
   Rectal: No external lesions, no bleeding
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   CN II-XII intact. Motor in upper and lower extremities symmetric
   Labs / Radiology
   222 K/uL
   9.8 g/dL
   71 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.7 mEq/L
   10 mg/dL
   111 mEq/L
   144 mEq/L
   28.9 %
   8.5 K/uL
        [image002.jpg]
                             [**2152-1-19**]  07:59 PM
                             [**2152-1-20**]  04:37 AM
                             [**2152-1-20**]  02:14 PM
                             [**2152-1-20**]  10:29 PM
                             [**2152-1-21**]  06:08 AM
                             [**2152-1-21**]  04:27 PM
                             [**2152-1-22**]  03:59 AM
   WBC
   8.2
   8.8
   8.5
   Hct
   24.2
   27.4
   26.7
   27.7
   31.2
   29.0
   28.9
   Plt
   [**Telephone/Fax (3) 10538**]
   Cr
   0.8
   0.9
   0.8
   TropT
   <0.01
   Glucose
   131
   79
   71
   Other labs: PT / PTT / INR:13.3/29.3/1.1, CK / CKMB /
   Troponin-T:133/4/<0.01, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.6 mg/dL
   [**1-21**] CT Head IMPRESSION:  Slight increase in size of acute on chronic
   left subdural hematoma along
   frontal and parietal lobe without increase in associated mass effect.
   The study and the report were reviewed by the staff radiologist.
   Assessment and Plan
   86 year old male with a history of CAD s/p CABG who presents with BRBPR
   in the setting of increasing fatigue.
   .
   # BRBPR: Has been without repeat episodes of bloody stool x3 days.
   Differential includes diverticulosis, hemmorhoidal bleed, colonic mass,
   colitis, ulcer, less likely IBD/UC.  Patient has never had a
   colonoscopy.  Currently overall hemodynamically stable and it is likely
   that we may perform colonoscopy while patient on floor.
   - Appreciate GI consult; continue to follow
   - Plan to defer colonoscopy at this time given bradycardia/need for
   sedation for procedure
   - Maintain 2 PIV, large-bore
   - Serial hct q12, goal > 25
   - Continue active type and cross
   - NPO other than colonoscopy prep
   - Maintenance IVF; bolus prn
   - Hold ASA in setting of GI bleed
   .
   # Bradycardia: Has had episodes of bradycardia during MICU
   hospitalization. Asymptomatic through this time.
   - Pacer pads by bedside
   - Consult EP
   .
   # Anemia: likely mostly GI related and Fe def.  Will check Fe labs.
   Consider checking b-12 and folate as outpatient
   - Appreciate GI consult; continue to follow
   - Serial hct q12, goal > 25
   .
   # EKG changes: Patient without any chest pain and CE enzymes negative.
   The mild elevations in aVR could be consistent with a very proximal LAD
   lesion.  However given CABG, his anatomy likely altered and
   questionable significance of the aVR change. In the setting of some
   other TWF, this may just represent mild demand ischemia. Patient had
   episode of bradycardia overnight and appears to be sinus bradycardia
   with repeat EKG Given other issues would not be a candidate for
   anticoagulation at this time.
   - Replete electrolytes
   - Repeat EKG and follow
   - Hold ASA in setting of GI bleed
   - Follow neuro exam
   .
   # SDH: Patient with acute on chronic subdural bleed.  Likely related to
   fall and head trauma a few weeks ago. Neurosurgery has agreed patient
   is a candidate for floor.
   - Appreciate neurosurg recs; follow CT head for SDH/bradycardia
   - Keppra 500mg PO/IV bid for prophylaxis
   - Follow neuro exam
   .
   # HTN: Holding antihypertensives in the setting of GI bleed
   .
   # HLD: Holding statin acutely, plan to restart on medical floor
   .
   # Hypothyroid: Continue levothyroxine
   .
   # BPH: Holding prostate meds in setting of GI bleed.  If difficulty
   passing urine will place foley.
   .
   # FEN: Maintenance IVF; bolus prn, replete electrolytes, NPO for
   procedure
   # Prophylaxis: Pneumoboots
   # Access: PIVx1; will attempt to replace a second IV today
   # Communication: Patient, patient
s family
   # Code:  Full (although patient wants to talk with family about
   options)
   # Disposition: ICU pending clinical improvement; likely can go to floor
   today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2152-1-21**] 01:50 AM
   18 Gauge - [**2152-1-21**] 11:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2152-01-22 11:50:00 Physician Attending Progress Note
Chief Complaint: 86 yr man with 2-3 day hx BRBPR with fatigue. Had old
   stable subdural.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2152-1-22**] 05:22 AM
   No events
   Stable for floor
   Asymptomatic bradycardia
   Hct Stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   synthroid, keppra
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-1-22**] 11:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**53**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 35 (32 - 58) bpm
   BP: 139/55(79) {107/37(58) - 152/66(86)} mmHg
   RR: 17 (15 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 67 Inch
             Total In:
                                                                  2,200 mL
                                                                    217 mL
   PO:
                                                                    960 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,240 mL
                                                                    117 mL
   Blood products:
   Total out:
                                                                    675 mL
                                                                    750 mL
   Urine:
                                                                    375 mL
                                                                    750 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                  1,525 mL
                                                                   -533 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), III/VI
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: No(t) Clear : , Crackles : scattered)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Normal
   Labs / Radiology
   9.8 g/dL
   222 K/uL
   71 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.7 mEq/L
   10 mg/dL
   111 mEq/L
   144 mEq/L
   28.9 %
   8.5 K/uL
        [image002.jpg]
                             [**2152-1-19**]  07:59 PM
                             [**2152-1-20**]  04:37 AM
                             [**2152-1-20**]  02:14 PM
                             [**2152-1-20**]  10:29 PM
                             [**2152-1-21**]  06:08 AM
                             [**2152-1-21**]  04:27 PM
                             [**2152-1-22**]  03:59 AM
   WBC
   8.2
   8.8
   8.5
   Hct
   24.2
   27.4
   26.7
   27.7
   31.2
   29.0
   28.9
   Plt
   [**Telephone/Fax (3) 10538**]
   Cr
   0.8
   0.9
   0.8
   TropT
   <0.01
   Glucose
   131
   79
   71
   Other labs: PT / PTT / INR:13.3/29.3/1.1, CK / CKMB /
   Troponin-T:133/4/<0.01, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   86 year old male with a history of CAD s/p CABG who presents with BRBPR
   in the setting of increasing fatigue.
   # BRBPR: Has been without repeat episodes of bloody stool x3 days.
   Differential includes diverticulosis, hemmorhoidal bleed, colonic mass,
   colitis, ulcer, less likely IBD/UC.  Patient has never had a
   colonoscopy.  Currently overall hemodynamically stable and it is likely
   that we may perform colonoscopy while patient on floor.
   - Appreciate GI consult; continue to follow
   - Plan to defer colonoscopy at this time given bradycardia/need for
   sedation for procedure
   - Maintain 2 PIV, large-bore
   - Serial hct q8, goal > 25
   - Continue active type and cross
   - NPO other than colonoscopy prep
   - Maintenance IVF; bolus prn
   - Hold ASA in setting of GI bleed
   # Anemia: likely mostly GI related and Fe def.  Will check Fe labs.
   Consider checking b-12 and folate as outpatient
   - Appreciate GI consult; continue to follow
   - Serial hct q12, goal > 25
   # EKG changes: Patient without any chest pain and CE enzymes negative.
   The mild elevations in aVR could be consistent with a very proximal LAD
   lesion.  However given CABG, his anatomy likely altered and
   questionable significance of the aVR change. In the setting of some
   other TWF, this may just represent mild demand ischemia. Patient had
   episode of bradycardia overnight and appears to be sinus bradycardia
   with repeat EKG Given other issues would not be a candidate for
   anticoagulation at this time.
   - Replete electrolytes
   - Repeat EKG and follow; EP consult
 might need pacer particularly in
   light of recent hx of falls with subdural.
   - Hold ASA in setting of GI bleed
   - Follow neuro exam
   # SDH: Patient with acute on chronic subdural bleed.  Likely related to
   fall and head trauma a few weeks ago. Neurosurgery has agreed patient
   is a candidate for floor.
   - Appreciate neurosurg recs; follow CT head for SDH/bradycardia
   - Keppra 500mg PO/IV bid for prophylaxis
   - Follow neuro exam
   # HTN: Holding antihypertensives in the setting of GI bleed
   .
   # HLD: Holding statin acutely, plan to restart on medical floor
   .
   # Hypothyroid: Continue levothyroxine
   .
   # BPH: Holding prostate meds in setting of GI bleed.  If difficulty
   passing urine will place foley.
   .
   # FEN: Maintenance IVF; bolus prn, replete electrolytes, NPO for
   procedure
   # Prophylaxis: Pneumoboots
   # Access: PIVx1; will attempt to replace a second IV today
   # Communication: Patient, patient
s family
   # Code:  Full (although patient wants to talk with family about
   options)
   # Disposition: ICU pending clinical improvement; likely can go to floor
   today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2152-1-21**] 01:50 AM
   18 Gauge - [**2152-1-21**] 11:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  Full
   Disposition :   To Floor
   Total time spent:  30 min